US07317032B2
A. 4-Bromo-5-(4-methoxy-phenyl)-2-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole
Through a mixture of 2,4,5-tribromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole [Lipshutz et al. (Tet Lett 1992, 33, 5865-5868)] (3.75 g, 7.09 mmol) and phenyl boronic acid (865 mg, 7.09 mmol) in 2 M aqueous sodium carbonate (7.09 mL) and a 5:1 mixture of toluene:methanol (168 mL) was bubbled nitrogen gas for 10 min. Palladium tetrakis triphenylphosphine (820 mg, 0.71 mmol) was added to the mixture that was then heated under nitrogen at 90° C. for 2 h. To the reaction mixture was added 4-methoxy phenyl boronic acid (1.19 g, 7.80 mmol) and another 2 M aqueous sodium carbonate (7 mL). The mixture was refluxed 4 h. The mixture was then concentated in vacuo and purified by flash column chromatography (silica gel, 20% ethyl acetate in hexanes) to provide the title compound as an oil (1.26 g, 39% yield). MS m/e 461; HPLC retention time 4.31 min (Method A).

reactant | 2,4,5-tribromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 7.09 mmol, 3.75 g | BrC=1N(C(=C(N1)Br)Br)COCC[Si](C)(C)C | C9H15Br3N2OSi
reactant | phenyl boronic acid | 7.09 mmol, 865 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | 4-methoxy phenyl boronic acid | 7.80 mmol, 1.19 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
solvent | sodium carbonate | 2 M, 7.09 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | sodium carbonate | 2 M, 7 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 4-Bromo-5-(4-methoxy-phenyl)-2-phenyl-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 1.26 g, 39% yield | BrC=1N=C(N(C1C1=CC=C(C=C1)OC)COCC[Si](C)(C)C)C1=CC=CC=C1 | C22H27BrN2O2Si
